US20010000513A1
To a stirred suspension of anhydrous aluminum chloride (3.35 g, 0.0251 mol) in dichloromethane (30 mL) at 5° C. under nitrogen was added dropwise a solution of 4-bromo-2-fluoro-biphenyl (2.512 g, 0.0100 mol) in dichloromethane (17 mL) followed by a solution of 3-carbomethoxypropionyl chloride (1.34 mL, 0.0109 mol) in dichloromethane (16 mL), and the mixture stirred. After 2 hours at 5° C., the mixture was allowed to warm to room temperature and stirred for 20 hours. The reaction was recooled to 5° C. and quenched by the dropwise addition of water (60 mL). The organic layer was washed with water, saturated sodium bicarbonate, brine, and dried (Na2SO4). The organics were rotary evaporated, and the residue was purified by chromatography on silica gel, eluting with chloroform to give 3.15 g of 4-(4′-bromo-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a pale yellow solid; mp 94-95° C.

reactant | aluminum chloride | 0.0251 mol, 3.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromo-2-fluoro-biphenyl | 0.0100 mol, 2.512 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | 3-carbomethoxypropionyl chloride | 0.0109 mol, 1.34 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 4-(4′-bromo-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 3.15 g | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O)F | C17H14BrFO3
